US07569579B2
Preparation 20B: ((1R,2R)-1-phenyl-2-{[(phenylmethyl)oxy]methyl}cyclopropyl)methanol
Sodium borohydride (1.2 g, 32.2 mmol, 1 eq) was added in one portion to a mixture of (1R,2R)-1-phenyl-2-{[(phenylmethyl)oxy]methyl}cyclopropanecarbaldehyde (7.8 g, 29.3 mmol, 1 eq), accessed via the method of Preparation 19B, in 100 mL ethyl alcohol at ambient temperature. The reaction was stirred at ambient temperature for 18 h, concentrated down and the residue partitioned between ethyl acetate and brine. The organics were dried over Na2SO4, filtered and concentrated to give a yellow oil. The crude material was purified by flash chromatography (SiO2, eluted successively with hexanes and EtOAc/hexanes (1:4)) to give the title product (7.8 g, 29.06 mmol, 99%) as a clear oil. 1H NMR (400 MHz, DMSO-d6) δ 7.31-7.15 (m, 10H), 4.61 (t, J=5.7 Hz, 1H), 4.30-4.17 (m, 2H), 3.53-3.48 (m, 1H), 3.35-3.31 (m, 1H), 3.02-2.95 (m, 2H), 1.40-1.33 (m, 1H), 0.96-0.93 (m, 1H), 0.72-0.69 (m, 1H). ES-LCMS m/z 291.2 (M+Na).

reactant | Sodium borohydride | 32.2 mmol, 1.2 g, 1 eq | [BH4-].[Na+]
reactant | (1R,2R)-1-phenyl-2-{[(phenylmethyl)oxy]methyl}cyclopropanecarbaldehyde | 29.3 mmol, 7.8 g, 1 eq | C1(=CC=CC=C1)[C@@]1([C@@H](C1)COCC1=CC=CC=C1)C=O | C18H18O2
solvent | ethyl alcohol | 100 mL | C(C)O | C2H6O
product | ((1R,2R)-1-phenyl-2-{[(phenylmethyl)oxy]methyl}cyclopropyl)methanol | 29.06 mmol, 7.8 g, 99% | C1(=CC=CC=C1)[C@@]1([C@@H](C1)COCC1=CC=CC=C1)CO | C18H20O2
